US08802704B2
Step 1: tert-butyl 4-[(4-cyanobenzyl)(methyl)amino]butanoate
The title compound was prepared following general procedure 10, starting from 4-cyanobenzyl bromide and tert-butyl 4-(methylamino)butanoate hydrochloride (Watanabe). It was obtained as a yellow oil (586 mg, quantitative). LC/MS (Method B): 289.2 (M+H)+. HPLC (Method A) Rt 3.02 (Purity: 91.8%).

reactant | 4-cyanobenzyl bromide | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | tert-butyl 4-(methylamino)butanoate hydrochloride | Cl.CNCCCC(=O)OC(C)(C)C
product | tert-butyl 4-[(4-cyanobenzyl)(methyl)amino]butanoate | C(#N)C1=CC=C(CN(CCCC(=O)OC(C)(C)C)C)C=C1 | C17H24N2O2
